US07498325B2
(R)-1-[3-(4-amino-3,5-dibromophenyl)-2-[N-[(1,1-dimethylethoxy)carbonyl]amino]propyl]-4-(1-piperidinyl)-piperidine
To a solution of 10 g (0.017 mol) of 1-[4-amino-3,5-dibromo-N-[(1,1-dimethylethoxy)carbonyl]-D-phenylalanyl]-4-(1-piperidinyl)-piperidine in 350 ml of dioxane were added 3.1 g (0.082 mol) of sodium borohydride and the reaction mixture was cooled to 5° C. Then a solution of 4.92 g (0.082 mol) of acetic acid in 100 ml of dioxane was added dropwise with stirring. The reaction mixture was stirred for a further hour at room temperature and for 3 hours at 85° C. Then ice water was added, the organic solvent was removed in vacuo and the aqueous residue was repeatedly extracted with methylene chloride. The combined organic phases were dried, evaporated down in vacuo and the residue was purified by column chromatography (MN-silica gel 60, Macherey-Nagel, 70-230 mesh ASTM, eluant: methylene chloride/methanol/cyclohexane/conc. aqueous ammonia=3600/150/150/20 (v/v/v/v). 4.1 g (42% of theory) of a colourless foam were obtained.

reactant | 1-[4-amino-3,5-dibromo-N-[(1,1-dimethylethoxy)carbonyl]-D-phenylalanyl]-4-(1-piperidinyl)-piperidine | 0.017 mol, 10 g | NC1=C(C=C(C[C@@H](NC(=O)OC(C)(C)C)C(=O)N2CCC(CC2)N2CCCCC2)C=C1Br)Br | C24H36Br2N4O3
reactant | sodium borohydride | 0.082 mol, 3.1 g | [BH4-].[Na+]
reactant | acetic acid | 0.082 mol, 4.92 g | C(C)(=O)O | C2H4O2
solvent | dioxane | 350 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | (R)-1-[3-(4-amino-3,5-dibromophenyl)-2-[N-[(1,1-dimethylethoxy)carbonyl]amino]propyl]-4-(1-piperidinyl)-piperidine | NC1=C(C=C(C=C1Br)C[C@H](CN1CCC(CC1)N1CCCCC1)NC(=O)OC(C)(C)C)Br | C24H38Br2N4O2
